US08134001B2
In a manner similar to the method described in Example 60b, 5-bromo-2-[4-(3-hydroxy-propyl)-phenoxy]-benzaldehyde (9 g, 27 mmol) was reacted with tert-butyldimethylchlorosilane (4.45 g, 30 mmol) and imidazole in N,N-dimethylformamide to give 5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-benzaldehyde as a brown oil (Yield 12 g, 100%).

reactant | 5-bromo-2-[4-(3-hydroxy-propyl)-phenoxy]-benzaldehyde | 27 mmol, 9 g | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)CCCO | C16H15BrO3
reactant | tert-butyldimethylchlorosilane | 30 mmol, 4.45 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-benzaldehyde | Yield 12 g, 100% | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C | C22H29BrO3Si
